US09145380B2
2-[2-(2-Methoxyphenyl)ethylsulfonylamino]benzenesulfonamide
(E)-2-(2-(2-Methoxyphenyl)vinylsulfonamido)benzenesulfonamide (94 mg, 0.26 mmol) was dissolved in methanol (5 mL) in a 5 mL syringe. The solution was injected to the H-cube (1 ml/min, full hydrogen; 10% Pd/C). The solvent was then removed under reduced pressure and the crude material was purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (69 mg, 73%).

reactant | (E)-2-(2-(2-Methoxyphenyl)vinylsulfonamido)benzenesulfonamide | 0.26 mmol, 94 mg | COC1=C(C=CC=C1)/C=C/S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C15H16N2O5S2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-[2-(2-Methoxyphenyl)ethylsulfonylamino]benzenesulfonamide | 69 mg, 73% | COC1=C(C=CC=C1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C15H18N2O5S2
